US04696949
5-chloro-1,2-diphenylpentan-1-one
The compound is prepared from 19.6 g of desoxybenzoin, which is alkylated with 15.8 g of 3-bromo-1-chloropropane according to the procedure described in Example 17, method 1, except that the reaction time is only 15 min at room temperature. The product is recrystallized from methanol. The yield is 16.6 g (61%) of a product having m.p. 72°-4° C.

reactant | desoxybenzoin | 19.6 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | 3-bromo-1-chloropropane | 15.8 g | BrCCCCl | C3H6BrCl
product | 5-chloro-1,2-diphenylpentan-1-one | ClCCCC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C17H17ClO
